US05132426
1-Isobutyl-2,8-bis(dicyclohexylamino)-3,7,9-trioxa-1-aza-2,8-diphosphaspiro[4.5]decane
The procedure of Example 10 is repeated using 1-isobutyl-2,8-dichloro-3,7,9-trioxa-1-aza-2,8-diphosphaspiro[4.5]decane, dicyclohexylamine and triethylamine in toluene to afford the desired product.

reactant | 1-isobutyl-2,8-dichloro-3,7,9-trioxa-1-aza-2,8-diphosphaspiro[4.5]decane | C(C(C)C)N1P(OCC12COP(OC2)Cl)Cl | C8H15Cl2NO3P2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Isobutyl-2,8-bis(dicyclohexylamino)-3,7,9-trioxa-1-aza-2,8-diphosphaspiro[4.5]decane | C(C(C)C)N1P(OCC12COP(OC2)N(C2CCCCC2)C2CCCCC2)N(C2CCCCC2)C2CCCCC2 | C32H59N3O3P2
